US04540703
5-(1-Phenyl-1,2,3,4-tetrazol-5-yl)valeric acid (2.5 g) is dissolved in dimethylformamide (50 ml), and thereto is added triethylamine (1.1 g). To the mixture is added dropwise with stirring isobutyl chloroformate (1.5 g) under ice-cooling, and the mixture is stirred at room temperature for 30 minutes. To the mixture is added dropwise with stirring diethylamine (0.9 g) at room temperature, and the mixture is stirred for 2 hours. After distilling off dimethylformamide under reduced pressure, acetone is added to the resulting residue, and the insoluble materials are filtered off. The mother liquor is concentrated and then purified by column chromatography (Kieselgel 60, made by Merck & Co.). By eluting with chloroform, there is obtained N,N-diethyl-5-(1-phenyl-1,2,3,4-tetrazol-5-yl)valeramide (1.2 g), colorless liquid, nD25 =1.5303.

reactant | 5-(1-Phenyl-1,2,3,4-tetrazol-5-yl)valeric acid | 2.5 g | C1(=CC=CC=C1)N1N=NN=C1CCCCC(=O)O | C12H14N4O2
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 1.5 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | diethylamine | 0.9 g | C(C)NCC | C4H11N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | N,N-diethyl-5-(1-phenyl-1,2,3,4-tetrazol-5-yl)valeramide | 1.2 g | C(C)N(C(CCCCC1=NN=NN1C1=CC=CC=C1)=O)CC | C16H23N5O
